*$
*PART NUMBER: NJM5534
*MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM5534 -IN +IN V- OUT V+
X_U1     +IN -IN V+ V- OUT NJM5534_S
.ends  NJM5534
.subckt NJM5534_S  1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 1.8137E6 -1E3 1E3 1E6 -1E6
  ga    6  0 11 12 2.2054E-3
  gcm   0  6 10 99 20.049E-9
  iee  10  4 dc 391.00E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   3 11 453.43
  rc2   3 12 453.43
  re1  13 10 319.98
  re2  14 10 319.98
  ree  10 99 511.51E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8432E3
  vb    9  0 dc 0
  vc    3 53 dc 2.8395
  ve   54  4 dc 2.8395
  vlim  7  8 dc 0
  vlp  91  0 dc 100
  vln   0 92 dc 100
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 NPN(Is=800.00E-18 Bf=381.29)
.model qx2 NPN(Is=814.9854E-18 Bf=399.12)
.ends NJM5534_S
*$
